US07964607B2
(b) 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
To a solution of 6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one hydrogen chloride (493 mg) in 1,2-dichloroethane (10 mL) was added acetic acid (174 mg), 2-methylpyrimidine-5-carbaldehyde (236 mg) and sodium triacetoxy borohydride (635 mg). The reaction mixture was heated at 50° C. overnight. The reaction mixture was concentrated onto silica gel and purified by CombiFlash chromatography to provide the title compound (146 mg). 400 MHz 1H NMR (CDCl3) δ 8.63 (s, 2H), 8.01 (s, 1H), 4.82-4.76 (m, 1H), 4.12-4.08 (m, 2H), 3.68 (d, J=5.0 Hz, 3H), 3.64-3.54 (m, 2H), 3.28 (t, J=8.3 Hz, 1H), 3.04 (d, J=9.9 Hz, 1H), 2.89-2.86 (m, 1H), 2.71 (s, 3H), 2.66-2.62 (m, 1H), 2.49-2.27 (m, 3H), 1.97 (t, J=7.9 Hz, 1H), 1.91-1.83 (m, 2H), 1.19 (d, J=7.05 Hz, 3H). MS: (M+H m/z 410.2).

reactant | 6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one hydrogen chloride | 493 mg | Cl.C[C@H]1[C@@H](CNC1)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O
reactant | acetic acid | 174 mg | C(C)(=O)O | C2H4O2
reactant | 2-methylpyrimidine-5-carbaldehyde | 236 mg | CC1=NC=C(C=N1)C=O | C6H6N2O
reactant | sodium triacetoxy borohydride | 635 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | 146 mg | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
